US07718815B2
3-(2-Phenylethyl)-2,3-dihydro-1-benzofuran-5-yl-methanol
Analogously, starting from ethyl 3-benzyl-2,3-dihydro-1-benzofuran-5-carboxylate the 3-benzyl-2,3-dihydro-1-benzofuran-5-yl-methanol was obtained in 62% yield.

reactant | ethyl 3-benzyl-2,3-dihydro-1-benzofuran-5-carboxylate | C(C1=CC=CC=C1)C1COC2=C1C=C(C=C2)C(=O)OCC | C18H18O3
reactant | 3-benzyl-2,3-dihydro-1-benzofuran-5-yl-methanol | C(C1=CC=CC=C1)C1COC2=C1C=C(C=C2)CO | C16H16O2
product | 3-(2-Phenylethyl)-2,3-dihydro-1-benzofuran-5-yl-methanol | C1(=CC=CC=C1)CCC1COC2=C1C=C(C=C2)CO | C17H18O2
